US20010046953A1
Synthesis of N-Methoxy-N-nonanoyl Acetamide (2):
A 100 mL round-bottom flask equipped with a magnetic stir bar, argon inlet and pressure equalizing addition funnel is charged with methylene chloride (22.5 mL), triethylamine (3.80 g, 2 eq) and N-methoxynonanamide (3.5 g, 1 eq). The reaction mixture is stirred and cooled in an ice bath. Acetic anhydride (2.88 g, 1.5 eq) is then added dropwise. The reaction slowly warms to room temperature overnight. The reaction mixture is diluted with methylene chloride (50 mL) and washed with 0.05 M hydrochloric acid solution (1×50 mL), saturated aqueous sodium bicarbonate solution (3×50 mL) and brine (1×50 mL). The organic layer is dried over sodium sulfate, filtered and concentrated under vacuum.

reactant | triethylamine | 3.80 g, 2 eq | C(C)N(CC)CC | C6H15N
reactant | N-methoxynonanamide | 3.5 g, 1 eq | CONC(CCCCCCCC)=O | C10H21NO2
reactant | Acetic anhydride | 2.88 g, 1.5 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 22.5 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-nonanoyl Acetamide | CON(C(C)=O)C(CCCCCCCC)=O | C12H23NO3
